US04863904
A solution of 500 mg of 2-(1-naphthylmethylene)-3-(phenethylcarbamoyl)propionic acid in 50 ml of acetic acid was hydrogenated over 250 mg of a 10% palladium/charcoal under a hydrogen atmosphere at room temperature. After filtration of the catalyst, the filtrate was concentrated under reduced pressure, and hexane was added to the residue. The precipitates were collected to obtain 500 mg of (±)-2-(1-naphthylmethyl)-3-(phenetylcarbamoyl)propionic acid as colorless crystals.

reactant | 2-(1-naphthylmethylene)-3-(phenethylcarbamoyl)propionic acid | 500 mg | C1(=CC=CC2=CC=CC=C12)C=C(C(=O)O)CC(NCCC1=CC=CC=C1)=O | C23H21NO3
reactant | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
catalyst | palladium/charcoal | [Pd] | Pd
product | (±)-2-(1-naphthylmethyl)-3-(phenetylcarbamoyl)propionic acid | 500 mg | C1(=CC=CC2=CC=CC=C12)CC(C(=O)O)CC(NC1=CC=C(C=C1)OCC)=O | C23H23NO4
